reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](=[C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:12])([H:13])[H:14])([H:6])[H:7].[H:5][H:11]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7],84.66216269704029
[C:1]([O:5]/[C:4](=[C:2](/[C:3]([H:10])([H:11])[H:12])[H:9])[H:13])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[O:5])[H:13])[H:9])([H:6])([H:7])[H:8],78.1650203215058
[C:1]([C@@:2]1([H:11])[C@@:3]([C:5]#[C:6][H:12])([H:10])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],68.23485915018841
[C:1]([O:2][C:3]([C:4](=[O:5])[O:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[O:2])([H:8])[H:10].[C:3](=[C:4]([O:5][H:9])[O:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12],71.59367115110929
[C:1]([C:2]([O:3][C:4]([C:5]([H:12])([H:13])[H:15])=[C:6]([H:16])[H:18])([H:10])[H:11])([H:7])([H:8])[H:9].[H:14][H:17]>>[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],91.6333024139359
[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4](=[C:5]=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:13][H:14],80.14369483981059
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:5]([C:3](=[O:4])[H:13])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:14])[H:17],109.09045042246599
[C:1]([C@@:2]1([H:11])[C:6]([O:5][C:4](=[C:3]([H:12])[H:13])[H:14])=[N:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],39.063181376172025
[O:1]=[C:2]=[C:3]=[C:4]([H:5])[H:6]>>[O:1]=[C:2]([C:3]#[C:4][H:6])[H:5],80.87346732265719
[C:1]([C:2]([C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([H:7])([H:10])[H:11])([O+:4]=[C-:3][C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:8])[H:9],116.45948845416599
[C:1]([C:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9],3.1369572567388104
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C-:6]=[N+:7]([H:13])[H:14])[H:12])[H:11])([H:8])([H:9])[H:10],79.0256487522994
[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1](=[C:2](\[O:6][C:5]([O+:4]=[C-:3][H:9])([H:10])[H:11])[H:8])\[H:7],92.5159111861336
[C:1]([C:2]([C:3]([O:4][H:14])=[C:5]([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]=[N:7][H:13]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],68.9558800029923
[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]1([H:7])[C@@:2]([C:5]#[N:6])([H:9])[C:3]1([H:10])[H:11].[O:4]([H:8])[H:12],87.2846044200591
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1](=[C:2]1/[O:3][C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C-:6]=[N+:7]1[H:9])\[H:8],104.46232591133301
[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2]([O:3][C:5]([O:6][H:13])([H:11])[H:12])=[C:4]([H:9])[H:10])([H:7])[H:8],85.13517541194659
[C:1](=[C:2]([O:3][H:10])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],56.0112913676223
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C-:3]=[O+:4][C:6]([N:5]([H:11])[H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9],91.6131824426165
[C:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[O+:5]=[C-:4][N:6]([H:10])[H:11])([H:7])([H:8])[H:9],57.2757828502001
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[H:12])=[C:6]=[C:7]([H:11])[H:13])([H:8])([H:9])[H:10],63.94231686039989
[C:1]([O:6]/[C:5](=[C:2](/[C:3]#[N:4])[H:11])[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],73.5828019941684
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[H:11])([C:6]#[C:7][H:13])([H:8])[H:10].[C:4](=[O:5])([H:9])[H:12],116.36245940129801
[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[N:3][H:10])([H:7])[H:8].[O:4]=[C:5]([O:6][H:9])[H:11],39.567494191961295
[C:1](/[C:2](=[C:3]([C:4](=[C:5](/[O:6][H:11])[H:14])\[H:13])/[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],55.89556051503246
